US07723347B2
N4,N4-Dibenzyl-2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
5 ml of a 20% strength aqueous sodium hydroxide solution are added to a solution of 390 mg (0.66 mmol) of N4,N4-dibenzyl-2,6-difluoro-N1-{3-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}benzene-1,4-diamine in 15 ml of ethanol, and the mixture is stirred overnight. The reaction solution is then poured into a mixture of water and ethyl acetate and the aqueous phase is extracted two more times with ethyl acetate. Purification by preparative HPLC affords the target compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N4,N4-dibenzyl-2,6-difluoro-N1-{3-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}benzene-1,4-diamine | 0.66 mmol, 390 mg | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)F)NC1=C2C(=NC=C1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)C)F)CC2=CC=CC=C2 | C35H30F2N4O2S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N4,N4-Dibenzyl-2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)F)NC1=C2C(=NC=C1)NC=C2C)F)CC2=CC=CC=C2 | C28H24F2N4
